US07435747B2
{Amino-[4-({3-[2-(2,4-dichloro-phenyl)-ethoxy]-4-methyl-benzoylamino}-methyl)-piperidin-1-yl]-methylene}-carbamic acid benzyl ester
97 mg of 3-[2-(2,4-Dichloro-phenyl)-ethoxy]-4-methyl-benzoic acid and 124.3 mg of [Amino-(4-aminomethyl-piperidin-1-yl)-methylene]-carbamic acid benzyl ester trifluoroacetic acid salt were dissolved in 5 ml of DMF. After cooling to 0° C. 136 mg of HATU and 106 mg of NEM were added. The mixture was stirred at 0° C. for 2 hours and at room temperature for 3 hours. The solvent was removed under reduced pressure and the residue was purified by preparative HPLC (C18 reverse phase column) (gradient acetonitrile water (containing 0.1% trifluoro-acetic acid) 90:10 to 0:100). The fractions containing the product were evaporated and lyophilized.

reactant | 3-[2-(2,4-Dichloro-phenyl)-ethoxy]-4-methyl-benzoic acid | 97 mg | ClC1=C(C=CC(=C1)Cl)CCOC=1C=C(C(=O)O)C=CC1C | C16H14Cl2O3
reactant | [Amino-(4-aminomethyl-piperidin-1-yl)-methylene]-carbamic acid benzyl ester trifluoroacetic acid salt | 124.3 mg | FC(C(=O)O)(F)F.C(C1=CC=CC=C1)OC(N=C(N1CCC(CC1)CN)N)=O
reactant | HATU | 136 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | {Amino-[4-({3-[2-(2,4-dichloro-phenyl)-ethoxy]-4-methyl-benzoylamino}-methyl)-piperidin-1-yl]-methylene}-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(N=C(N1CCC(CC1)CNC(C1=CC(=C(C=C1)C)OCCC1=C(C=C(C=C1)Cl)Cl)=O)N)=O | C31H34Cl2N4O4
